US07026340B2
By using (3,3,3-trifluoropropyl)malononitrile (83 mg), N,N-dimethylformamide (10 ml), potassium carbonate (71 mg) and 3-(chloromethyl)-6-(trifluoromethyl)pyridine (100 mg) according to the similar method described in Production Example 4 was obtained 130 mg of 2-((6-(trifluoromethyl)-3-pyridyl)methyl)-2-(3,3,3-trifluoropropyl)malononitrile represented by the following formula (hereinafter referred to as the present invention compound (9)).

reactant | (3,3,3-trifluoropropyl)malononitrile | 83 mg | FC(CCC(C#N)C#N)(F)F | C6H5F3N2
reactant | potassium carbonate | 71 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(chloromethyl)-6-(trifluoromethyl)pyridine | 100 mg | ClCC=1C=NC(=CC1)C(F)(F)F | C7H5ClF3N
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-((6-(trifluoromethyl)-3-pyridyl)methyl)-2-(3,3,3-trifluoropropyl)malononitrile | 130 mg | FC(C1=CC=C(C=N1)CC(C#N)(C#N)CCC(F)(F)F)(F)F | C13H9F6N3
